### PR TITLE
feat(Algebra): add liftEquiv for groups, rings, algebras, and adjoin roots

### PR DESCRIPTION
**Pull request by Multramate**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by CBirkbeck — COMMENTED** [review]
Can you give some indication as to why we want these?

File: Mathlib/Algebra/Polynomial/AlgebraMap.lean [hunk 1]
```diff
@@ -239,12 +239,25 @@ variable [CommSemiring R] [Semiring A] [CommSemiring A'] [Semiring B]
...
 /-- Given a valuation `x` of the variable in an `R`-algebra `A`, `aeval R A x` is
 the unique `R`-algebra homomorphism from `R[X]` to `A` sending `X` to `x`.
 
 This is a stronger variant of the linear map `Polynomial.leval`. -/
 def aeval : R[X] →ₐ[R] A :=
-  eval₂AlgHom (Algebra.ofId _ _) x (Algebra.commutes · _)
+  aevalEquiv R A x
+
+lemma aevalEquiv_apply (x : A) : aevalEquiv R A x = aeval x :=
+  rfl
```
Comment (dagurtomas) [inline Mathlib/Algebra/Polynomial/AlgebraMap.lean:261]: Shouldn't this be `@[simp]`?

File: Mathlib/Algebra/Polynomial/Bivariate.lean [hunk 2]
```diff
@@ -213,14 +213,34 @@ noncomputable section
...
+variable (R A) in
+/-- Given valuations `x` and `y` of the variables in an `R`-algebra `A`, the bijection induced by
+the unique `R`-algebra homomorphism from `R[X][Y]` to `A` sending `X` to `x` and `Y` to `y`. -/
+@[simps! apply_apply symm_apply symm_apply_fst symm_apply_snd]
+def aevalAevalEquiv : A × A ≃ (R[X][Y] →ₐ[R] A) where
+  toFun xy := aeval xy.fst |>.restrictScalars R |>.comp <|
+    let := Polynomial.algebra; aeval (R := R[X]) (C xy.snd) |>.restrictScalars R
+  invFun f := ⟨f <| C X, f Y⟩
+  left_inv f := by simp
+  right_inv f := algHom_ext' (by ext; simp) (by simp)
```
Comment (dagurtomas) [inline Mathlib/Algebra/Polynomial/Bivariate.lean]:
```suggestion
  right_inv f := by aesop
```

File: Mathlib/GroupTheory/QuotientGroup/Defs.lean [hunk 3]
```diff
@@ -280,23 +280,31 @@ theorem ker_lift (φ : G →* M) (HN : N ≤ φ.ker) :
...
-theorem liftEquiv_coe {φ : G →* H} (hφ : Function.Surjective φ) (HN : N = φ.ker) (g : G) :
-    liftEquiv N hφ HN (g : Q) = φ g := rfl
+theorem quotientEquivOfSurjective_coe {φ : G →* H} (hφ : Function.Surjective φ) (HN : N = φ.ker)
+    (g : G) : quotientEquivOfSurjective N hφ HN (g : Q) = φ g := rfl
 
 @[to_additive (attr := simp)]
-theorem liftEquiv_mk {φ : G →* H} (hφ : Function.Surjective φ) (HN : N = φ.ker) (g : G) :
-    liftEquiv N hφ HN (mk g : Q) = φ g := rfl
+theorem quotientEquivOfSurjective_mk {φ : G →* H} (hφ : Function.Surjective φ) (HN : N = φ.ker)
+    (g : G) : quotientEquivOfSurjective N hφ HN (mk g : Q) = φ g := rfl
```
Comment (dagurtomas) [inline Mathlib/GroupTheory/QuotientGroup/Defs.lean]: The old names need to be deprecated.
